US04178449
7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine
A mixture of 8.31 g. of 3-aminopyrazole, 24.32 g. of 3-dimethylamino-3'-(trifluoromethyl)acrylophenone and 100 ml. of glacial acetic acid is refluxed for 8 hours and evaporated in vacuo to an oil. This oil is treated as described in Example 1, giving the desired product, m.p. 103°-104.5° C.

reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | 3-dimethylamino-3'-(trifluoromethyl)acrylophenone | CN(C=CC(=O)C1=CC(=CC=C1)C(F)(F)F)C | C12H12F3NO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2)(F)F | C13H8F3N3
